US08232294B2
(S)—((R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-aminopropanoate hydrochloride
The title compound was prepared according to the procedure described in Example 1 Step 3 by using (S)—((R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenyl-carbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-amino-propanoate (61.3 mg, 0.1 mmol) and a saturated HCl solution in EtOAc (3 mL). The title compound was obtained as a pale yellow solid (57.1 mg, 83%).

reactant | (S)—((R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenyl-carbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-amino-propanoate | 0.1 mmol, 61.3 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)NC(=O)C=1C(N(N(C1C)C[C@@H](C)OC([C@H](C)N)=O)C1=CC=CC=C1)=O | C33H32FN5O6
reactant | HCl | Cl | ClH
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | (S)—((R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-aminopropanoate hydrochloride | Cl.FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)NC(=O)C=1C(N(N(C1C)C[C@@H](C)OC([C@H](C)N)=O)C1=CC=CC=C1)=O | InChI=1S/C33H32FN5O6.ClH/c1-19(44-33(42)20(2)35)18-38-21(3)30(32(41)39(38)23-8-6-5-7-9-23)31(40)37-22-10-13-29(26(34)16-22)45-28-14-15-36-27-17-24(43-4)11-12-25(27)28;/h5-17,19-20H,18,35H2,1-4H3,(H,37,40);1H/t19-,20+;/m1./s1
